US06127354
A solution of N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester (723 mg, 2.9 mmol) and triethylamine (0.48 ml, 3.5 mmol) in dichloromethane (10 ml) was cooled to -78° C. A solution of methanesulfonyl chloride (0.22 ml, 2.9 mmol) in dichloromethane (2 ml) was added dropwise. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with ethyl acetate (50 ml) and washed with 10% aqueos sodium hydrogen sulfate solution (150 ml). The aqueous phase was extracted with ethyl acetate (3×80 ml). The combined organic layers were washed with saturated aqueous sodium hydrogen carbonate solution (150 ml) and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (60 g), using ethyl acetate/heptane (1:1) as eluent, to give 870 mg of N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamic acid tert-butyl ester.

reactant | N-(2-(2-aminophenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 2.9 mmol, 723 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)N)=O | C14H22N2O2
reactant | triethylamine | 3.5 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.9 mmol, 0.22 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(2-(2-(methylsulfonylamino)phenyl)ethyl)-N-methylcarbamic acid tert-butyl ester | 870 mg | C(C)(C)(C)OC(N(C)CCC1=C(C=CC=C1)NS(=O)(=O)C)=O | C15H24N2O4S
